US05284819
Decanoic acid (C10 acid), dodecanoic acid (C12 acid), and tetradecanoic acid (C14 acid)-each of 100 mmol of C10, C12 and C14 acids were dissolved in 50 ml dichloromethane, and 300 mmol of ethylene glycol was added to the solutions. Several drops of H2SO4 were added to the mixture. The reaction mixtures were stored at room temperature for 9 days. Isolation of the esters were carried out using the same procedure as that to isolate ethylene glycol monopelargonate. Distillations were not undertaken.

reactant | Decanoic acid | C(CCCCCCCCC)(=O)O | C10H20O2
reactant | dodecanoic acid | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | tetradecanoic acid | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | ethylene glycol | 300 mmol | C(CO)O | C2H6O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | H2SO4 | Several drops | OS(=O)(=O)O | H2O4S
product | ethylene glycol monopelargonate | C(CCCCCCCC)(=O)OCCO | C11H22O3
